US07479559B2
To a solution of 3.9 g (13.5 mmol) of 3-[5-Fluoro-2-(4-methyl-piperazin-1-yl)-benzylidene]-pyrrolidin-2-one in 150 mL of methanol is added 1.0 g of Pd/C. Hydrogenation at 50 psi with heating to 50° C. was complete after 24 hours. The reaction was filtered over Celite™ using methanol and concentrated. The resultant residue was purified by silica gel chromatography to provide 3.8 g (98% yield) of 3-[5-Fluoro-2-(4-methyl-piperazin-1-yl)-benzyl]-pyrrolidin-2-one. Diagnostic C13 NMR (100 MHz, CDCl3) 27.3, 31.7, 40.5, 42.1, 46.2, 53.0, 55.8, 113.7, 113.9, 116.6, 116.8, 122.3, 122.4, 137.9, 148.0, 161.0; MS m/z 292.2 (M+1).

reactant | 3-[5-Fluoro-2-(4-methyl-piperazin-1-yl)-benzylidene]-pyrrolidin-2-one | 13.5 mmol, 3.9 g | FC=1C=CC(=C(C=C2C(NCC2)=O)C1)N1CCN(CC1)C | C16H20FN3O
solvent | methanol | 150 mL | CO | CH4O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 3-[5-Fluoro-2-(4-methyl-piperazin-1-yl)-benzyl]-pyrrolidin-2-one | 3.8 g, 98% yield | FC=1C=CC(=C(CC2C(NCC2)=O)C1)N1CCN(CC1)C | C16H22FN3O
